US04272507
15.9 g (0.1 mole) of 3-oxotetrahydro-2-thiophencarboxylic acid methyl ester, 14.2 g of 2-chloro-3-methylaniline and 200 mg of p-toluenesulfonic acid are heated in 500 ml of toluene for six hours using a water separator. 24.6 g (0.1 mole) of chloranil are then added, and the mixture is boiled for a further one hour. It is cooled and filtered; the filtrate is washed with 100 ml each of 2 N sodium hydroxide solution, sodium dithionite solution and water and concentrated; the residue is purified by column chromatography (silica gel, toluene/ethyl acetate 4/1). 3-(2-Chloro-3-methylanilino)-2-thiophencarboxylic acid methyl ester is obtained as an oil.

reactant | 3-oxotetrahydro-2-thiophencarboxylic acid methyl ester | 0.1 mole, 15.9 g | COC(=O)C1SCCC1=O | C6H8O3S
reactant | 2-chloro-3-methylaniline | 14.2 g | ClC1=C(N)C=CC=C1C | C7H8ClN
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | chloranil | 0.1 mole, 24.6 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(2-Chloro-3-methylanilino)-2-thiophencarboxylic acid methyl ester | COC(=O)C=1SC=CC1NC1=C(C(=CC=C1)C)Cl | C13H12ClNO2S
